US06184225B2
A mixture of 6-methoxy-7-(2-(2-methoxyethylamino)ethoxy)-3,4-dihydroquinazolin-4-one (300 mg, 1 mmol), thionyl chloride (5 ml) and DMF (0.1 ml) was heated at reflux for 45 minutes. Excess thionyl chloride was removed by evaporation and the residue azeotroped with toluene. The resulting gum was partitioned between aqueous sodium hydrogen carbonate solution and methylene chloride. The organic layer was separated and the aqueous layer extracted with methylene chloride (4×40 ml). The combined extracts were passed through phase separating paper and the solvent removed by evaporation to give 4-chloro-6-methoxy-7-(2-(2-methoxyethylamino)ethoxy)quinazoline (120 mg, 38%) as a yellow solid.

reactant | 6-methoxy-7-(2-(2-methoxyethylamino)ethoxy)-3,4-dihydroquinazolin-4-one | 1 mmol, 300 mg | COC=1C=C2C(NC=NC2=CC1OCCNCCOC)=O | C14H19N3O4
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-(2-(2-methoxyethylamino)ethoxy)quinazoline | 120 mg, 38% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCNCCOC | C14H18ClN3O3
